US07557103B2
D. (S)-[1-(3-Bromo-2-methyl-benzofuran-7-yl)-ethoxy]-tert-butyl-dimethyl-silane
A solution of (S)-1-(3-bromo-2-methyl-benzofuran-7-yl)-ethanol (1.39 g, 5.47 mmol) in CH2Cl2 (50 mL) is treated with imidazol (0.56 g, 8.21 mmol) and TBSCl (0.91 g, 6.02 mmol). The reaction is stirred at rt overnight. It is diluted with CH2Cl2 (50 mL); washed with 0.1 M HCl (3×30 mL); dried with Na2SO4; filtered and concentrated. The resulting crude material is purified by chromatography gives the title compound (1.92 g, 5.19 mmol, 95%). 1H NMR (CDCl3): δ. −0.02 (s, 3H), 0.07 (s, 3H), 0.91 (s, 3H), 2.48 (s, 3H), 1.52 (d, J=6.2 Hz, 3H), 5.38 (q, J=6.2 Hz, 1H), 7.25 (t, J=8.0 Hz, 1H), 7.30 (dd, J=8.0, 1.7 Hz, 1H), 7.40 (d, J=8.0 Hz, 1H) ppm.

reactant | (S)-1-(3-bromo-2-methyl-benzofuran-7-yl)-ethanol | 5.47 mmol, 1.39 g | BrC1=C(OC2=C1C=CC=C2[C@H](C)O)C | C11H11BrO2
reactant | imidazol | 8.21 mmol, 0.56 g | N1C=NC=C1 | C3H4N2
reactant | TBSCl | 6.02 mmol, 0.91 g | CC(C)(C)[Si](C)(C)Cl | C6H15ClSi
solvent | CH2Cl2 | 50 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 50 mL | C(Cl)Cl | CH2Cl2
product | (S)-[1-(3-Bromo-2-methyl-benzofuran-7-yl)-ethoxy]-tert-butyl-dimethyl-silane | 5.19 mmol, 1.92 g, 95% | BrC1=C(OC2=C1C=CC=C2[C@H](C)O[Si](C)(C)C(C)(C)C)C | C17H25BrO2Si
